US07858632B2
2-(6-Isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-4-methoxy-but-2-enenitrile was prepared from (6-isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-acetonitrile by treatment with sodium hydride and methyl iodide using the procedure of step 6 of Example 2 above.

reactant | (6-isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-acetonitrile | C(C)(C)C1=C(C=C2C(=CN(C2=C1)C)C)OCC#N | C15H18N2O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
product | 2-(6-Isopropyl-1,3-dimethyl-1H-indol-5-yloxy)-4-methoxy-but-2-enenitrile | C(C)(C)C1=C(C=C2C(=CN(C2=C1)C)C)OC(C#N)=CCOC | C18H22N2O2
